US05006534
1-(3-Bromomethylphenyl)pentyl acetate
11 g of 3-(1-acetoxy-pentyl)toluene are dissolved in 100 ml of absolute carbon tetrachloride. After addition of 8.9 g of N-bromosuccinimide and 200 mg of azobisisobutyronitrile, the mixture is warmed slowly to the reflux temperature. When the reaction has ended, the mixture is heated under reflux for a further hour and then cooled to 0° C. and the succinimide is filtered off.

reactant | 3-(1-acetoxy-pentyl)toluene | 11 g | C(C)(=O)OC(CCCC)C=1C=C(C=CC1)C | C14H20O2
reactant | N-bromosuccinimide | 8.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | 200 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-(3-Bromomethylphenyl)pentyl acetate | C(C)(=O)OC(CCCC)C1=CC(=CC=C1)CBr | C14H19BrO2
